US05151447
To a slurry of 292.0 g (0.639 mol) of N,N'-bis-(4-chlorobenzyl)-3,3'-dithiodipropionamide in 2 liters of ethyl acetate was added 136.0 g (1.9717 mole) of chlorine in one hour, during which the reaction temperature rose to 47° C. The mixture was allowed to cool to room temperature, degassed, and then cooled to 10° C. The solid was removed by filtration, triturated with 200 ml of water, filtered, and dried. The dried solid was dissolved in 500 ml of boiling ethyl acetate and filtered to remove unreacted amide starting material. The ethyl acetate solution, on cooling, deposited a crystalline solid which was filtered and dried to give 132.2 g (46% yield) of the 2-(p-chlorobenzyl)-4-isothiazolin-3-one intermediate with a m.p.=88°-90° C.

reactant | N,N'-bis-(4-chlorobenzyl)-3,3'-dithiodipropionamide | 0.639 mol, 292.0 g | ClC1=CC=C(CNC(CCSSCCC(=O)NCC2=CC=C(C=C2)Cl)=O)C=C1 | C20H22Cl2N2O2S2
reactant | chlorine | 1.9717 mole, 136.0 g | ClCl | Cl2
solvent | ethyl acetate | 2 liters | C(C)(=O)OCC | C4H8O2
product | 2-(p-chlorobenzyl)-4-isothiazolin-3-one | 132.2 g, 46% yield | ClC1=CC=C(CN2SC=CC2=O)C=C1 | C10H8ClNOS
